US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of thiophenol (0.16 mL, 1.6 mmol) in N,N-dimethylformamide (15 mL) was treated with sodium hydride (60% wt, 62 mg, 1.6 mmol). After stirring 15 minutes the 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.50 g, 1.5 mmol) was added and the mixture was stirred for 18 hours more. The excess thiolate was quenched with methanol and the mixture was diluted with aqueous sodium bicarbonate and extracted with dichloromethane. The organics were dried over sodium sulfate, filtered, concentrated and the residue was purified by flash chromatography (hexanes/ethyl acetate) and recrystallization from hexanes/ethyl acetate to give the title compound (0.378 g, 62%), m.p. 92°-93° C.

reactant | thiophenol | 1.6 mmol, 0.16 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.5 mmol, 0.50 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(phenylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.378 g, 62% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CSC3=CC=CC=C3)=O)C | C21H19ClN4OS
